US04229519
EXAMPLE 3--Synthesis of N-(2-Tribromomethylcarbonyloxypropyl)methacrylamide
N-(2-Hydroxypropyl)methacrylamide (7.15 g) was dissolved in dichloroethane (150 ml) in a 500 ml three-necked round-bottomed flask, fitted with a stirrer, two dropping funnels and a nitrogen supply. The flask was cooled to 0° C. by means of an ice/salt freezing mixture, stirring was started and the reaction was blanketed with dry nitrogen. `Topanol OC`, a butylated hydroxy toluene stabilizer, (0.1 g) was added. Tribromoacetylbromide (18 g) was added dropwise, simultaneously with triethylamine (5.1 g) over a period of 30 minutes, keeping the temperature between 0° and -5° C. While stirring the mixture was then slowly allowed to come to room temperature. After four hours the precipitated salts were filtered off, washed with dichloroethane, and the washings and filtrate were combined. The solvent was removed under vacuum by a rotary evaporator leaving an oil residue. This was dissolved in a mixture of water and ethanol and on standing the product crystallized as a colorless solid. It was recrystallized from the same solvent mixture. Yield (13 g) m.p. 104°-105° C.

reactant | N-(2-Hydroxypropyl)methacrylamide | 7.15 g | OC(CNC(C(=C)C)=O)C | C7H13NO2
reactant | Tribromoacetylbromide | 18 g | BrC(C(=O)Br)(Br)Br | C2Br4O
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-(2-Tribromomethylcarbonyloxypropyl)methacrylamide | BrC(C(=O)OC(CNC(C(=C)C)=O)C)(Br)Br | C9H12Br3NO3
